US07371773B2
Production of (Z)-3-(4-bromo-phenyl)-2-(3,4-dimethoxy-phenyl)-acrylonitrile (Compound 12)
4-Bromobenzaldehyde (2.0 g) and 3,4-dimethoxybenzyl cyanide (1.9 g) were subjected to condensation in accordance with process A of (production process 2), to thereby produce the target product (2.9 g, yield: 78%).

reactant | 4-Bromobenzaldehyde | 2.0 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | 3,4-dimethoxybenzyl cyanide | 1.9 g | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-3-(4-bromo-phenyl)-2-(3,4-dimethoxy-phenyl)-acrylonitrile | 2.9 g, yield: 78% | BrC1=CC=C(C=C1)\C=C(/C#N)\C1=CC(=C(C=C1)OC)OC | C17H14BrNO2
